US06320068B1
Methyl 2-diphenylphosphino-1-naphthoate (acetonitrile as solvent, with 1,4-bis(diphenylphosphino)butane additive)
Diphenylphosphine (0.55 mL, 3.16 mmol, 1 eq) was added to a stirred solution of methyl 2-trifluoromethanesulfonyloxy-1-naphthoate (1.047 g, 3.13 mmol, 1 eq), triethylamine (0. 5 mL, 3.59 mmol, 1.1 eq), 1,4-bis(diphenylphosphino)butane (dppb) (0.03 g, 0.07 mmol, 0.02 eq) and palladium acetate (0.005 g, 0.02 mmol, 0.006 eq) in degassed MeCN (10 mL) instantly giving a red coloration. The solution was heated at reflux under nitrogen for 17 hours. The blood-red solution was allowed to cool and an aliquot taken for NMR analysis.

reactant | Diphenylphosphine | 3.16 mmol, 0.55 mL, 1 eq | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | methyl 2-trifluoromethanesulfonyloxy-1-naphthoate | 3.13 mmol, 1.047 g, 1 eq | FC(S(=O)(=O)OC1=C(C2=CC=CC=C2C=C1)C(=O)OC)(F)F | C13H9F3O5S
reactant | triethylamine | 3.59 mmol, 5 mL, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | 1,4-bis(diphenylphosphino)butane | 0.07 mmol, 0.03 g, 0.02 eq | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
solvent | MeCN | 10 mL | CC#N | C2H3N
catalyst | palladium acetate | 0.02 mmol, 0.005 g, 0.006 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 2-diphenylphosphino-1-naphthoate | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C(=O)OC)C1=CC=CC=C1 | C24H19O2P
